US07816391B2
Intermediate#46: 1-(4-Methoxycarbonyl-benzyl)-5-propylsulfanyl-1H-pyrazole-4-carboxylic acid tert-butyl ester
5-Chloro-1-(4-methoxycarbonyl-benzyl)-1H-pyrazole-4-carboxylic acid tert-butyl ester (Intermediate#48) (397 mg, 1.13 mmol) was dissolved in butyronitrile (8 mL), potassium carbonate (470 mg, 3.40 mmol) and propanethiol (128 ul, 1.41 mmol) were added and the mixture heated to reflux and stirred at this temperature over night. The reaction mixture was transferred to a microwave vial (using ˜5 ml extra Butyronitrile to ensure complete transfer), a further 3 eq of propane thiol was added and the reaction was heated at 180° C. for 4 hours. EtOAc (˜50 mL) was added and the mixture washed with water (3×˜20 mL) and brine (˜20 ml) then dried (MgSO4), filtered and evaporated to give a yellow oil. Oil purified by column chromatography (12 g Si, eluting with 10 to 50% EtOAc in IH) to yield the title compound as a yellow oil (274 mg, 62%).

reactant | 5-Chloro-1-(4-methoxycarbonyl-benzyl)-1H-pyrazole-4-carboxylic acid tert-butyl ester | 1.13 mmol, 397 mg | C(C)(C)(C)OC(=O)C=1C=NN(C1Cl)CC1=CC=C(C=C1)C(=O)OC | C17H19ClN2O4
reactant | potassium carbonate | 3.40 mmol, 470 mg | C([O-])([O-])=O.[K+].[K+]
reactant | propanethiol | 1.41 mmol, 128 ul | C(CC)S | C3H8S
reactant | propane thiol | 3 eq | C(CC)S | C3H8S
reactant | EtOAc | ˜50 mL | CCOC(=O)C | C4H8O2
solvent | butyronitrile | 8 mL | C(CCC)#N | C4H7N
solvent | Butyronitrile | ˜5 ml | C(CCC)#N | C4H7N
product | 1-(4-Methoxycarbonyl-benzyl)-5-propylsulfanyl-1H-pyrazole-4-carboxylic acid tert-butyl ester | 274 mg, 62% | C(C)(C)(C)OC(=O)C=1C=NN(C1SCCC)CC1=CC=C(C=C1)C(=O)OC | C20H26N2O4S
